US07750002B2
165 1-{4-[2-(1H-Indazol-4-yl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl]-piperazin-1-yl}-3-phenoxy-propan-2-ol
Treatment of 4-[2-(1H-indazol-4-yl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl]-piperazine-1-carboxylic acid tert-butyl ester with HCl in DCM/MeOH yielded 2-(1H-indazol-4-yl)-4-morpholin-4-yl-6-piperazin-1-ylmethyl-thieno[3,2-d]pyrimidine. A mixture of 2-(1H-indazol-4-yl)-4-morpholin-4-yl-6-piperazin-1-ylmethyl-thieno[3,2-d]pyrimidine (150 mg) and 1,2-epoxy-3-phenoxypropane (40 mg) was suspended in 50% DMF/0.1M sodium phosphate buffer (2 mL) and shaken at 55° C. overnight. After stirring for 24 h the reaction mixture was then diluted with DCM, washed with brine, dried (MgSO4) and the solvent removed in vacuo. The residue was purified by flash chromatography.

reactant | 2-(1H-indazol-4-yl)-4-morpholin-4-yl-6-piperazin-1-ylmethyl-thieno[3,2-d]pyrimidine | 150 mg | N1N=CC2=C(C=CC=C12)C=1N=C(C2=C(N1)C=C(S2)CN2CCNCC2)N2CCOCC2 | C22H25N7OS
reactant | 1,2-epoxy-3-phenoxypropane | 40 mg | O1CC1COC1=CC=CC=C1 | C9H10O2
solvent | DMF | 0.1M, 2 mL | CN(C)C=O | C3H7NO
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 1-{4-[2-(1H-Indazol-4-yl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl]-piperazin-1-yl}-3-phenoxy-propan-2-ol | N1N=CC2=C(C=CC=C12)C=1N=C(C2=C(N1)C=C(S2)CN2CCN(CC2)CC(COC2=CC=CC=C2)O)N2CCOCC2 | C31H35N7O3S
